US04973576
A solution of 3.2 g of tetraethyl [(4-methyl-3-isoxazolyl)amino]methylene-bis(phosphonate) in 32 ml of concentrated hydrochloric acid was heated under reflux for 4 hours. After the reaction mixture was concentrated, the solid obtained was washed with a mixture of methanol-acetonitrile-acetone to give 1.8 g of [(4-methyl-3-isoxazolyl)amino]methylene-bis(phosphonic acid) as a solid.

reactant | tetraethyl [(4-methyl-3-isoxazolyl)amino]methylene-bis(phosphonate) | 3.2 g | CC=1C(=NOC1)NC(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C13H26N2O7P2
solvent | hydrochloric acid | 32 ml | Cl | ClH
product | [(4-methyl-3-isoxazolyl)amino]methylene-bis(phosphonic acid) | 1.8 g | CC=1C(=NOC1)NC(P(O)(O)=O)P(O)(O)=O | C5H10N2O7P2
